US09024027B2
To a solution of 3-nitro-1H-indole (1 g, 6.17 mmol) in dry DMF (10 ml), under nitrogen, sodium hydride (60% w/w dispersion in mineral oil, 0.259 g, 6.48 mmol) was added. The mixture was stirred at room temperature for 15 minutes, and then ethyl 2-bromoacetate (0.723 ml, 6.17 mmol) was added. After stirring at the same temperature for 45 minutes, the mixture was partitioned between aqueous sat. NaHCO3 and Et2O; the aqueous layer was extracted with Et2O and the combined organic layers were washed with brine and dried over Na2SO4. The solvent was removed and the resulting crude solid was purified by flash chromatography on silica gel (petroleum ether:Et2O from 6:4 to 1:1) to give ethyl 2-(3-nitro-1H-indol-1-yl)acetate (983 mg, 3.96 mmol, 64% yield). MS/ESI+ 249.1 [MH]+.

reactant | 3-nitro-1H-indole | 6.17 mmol, 1 g | [N+](=O)([O-])C1=CNC2=CC=CC=C12 | C8H6N2O2
reactant | sodium hydride | 6.48 mmol, 0.259 g | [H-].[Na+]
reactant | ethyl 2-bromoacetate | 6.17 mmol, 0.723 ml | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | ethyl 2-(3-nitro-1H-indol-1-yl)acetate | 3.96 mmol, 983 mg, 64% yield | [N+](=O)([O-])C1=CN(C2=CC=CC=C12)CC(=O)OCC | C12H12N2O4
